Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I ended up here because I answered a question wrong"

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
For further details of the history and presentation, please see 
OMR, including initial consultation note by Dr. ___ 
dated ___ and admit note by Dr. ___ dated 
___. 
. 
Briefly, this is a ___ year old single man, currently a sophomore 
at ___, history of social anxiety, s/p one recent hospitalization 
and one recent suicide attempt who presented to ___ ED via EMS 
on a ___ form ___ due to concerns for 
SI.
. 
Upon initial interview, patient reported that on ___ he had 
flown to his parents home in ___ with the intent and plan 
to end his life. The night after arriving home, he drove over 
the edge of a cliff that he was familiar with in the area, 
stating it was not a steep drop and he was driving about 40 mph 
when he landed. He reported he injured his left leg and right 
arm, denied LOC. After crashing the car, he reported the 
steering wheel began to feel warm and so he left his phone and 
exited the car; he struggled to walk back toward the road but 
eventually flagged someone down, who helped call ___. Reported 
he had planned the suicide attempt over 5 days and was 
subsequently hospitalized
psychiatrically in ___ 
. 
Patient reported that while there, he was started on Zoloft, 
which he continued for about 2 weeks and then stopped as he did 
not wish to take medications. Following discharge, he returned 
to ___ to resume his semester at ___. He started care with a 
psychiatrist and therapist at the ___. At his 
appointment with his psychiatrist today, patient reported he was 
experiencing SI with a desire to shoot himself with a firearm, 
which he does not have. 
. 
On review of systems, patient reported he has social anxiety and 
believed this may have precipitated his initial SA. Regarding 
recent SI, reported one precipitant was a conversation with a 
peer on the night prior to presentation about plans for a summer 
internship, which makes him anxious. Reported normal sleep, 
appetite, concentration. Denied difficulties with attention. 
Denied history of manic symptoms including decreased need for 
sleep, elevated energy or activity. He endorsed anxiety in 
social situations, experiencing worries about others evaluating 
him negatively and later worries about the interaction. Denied 
anxiety in other settings. 
. 
Per ___ case manager, ___: Patient has withdrawn from 
family and friends at least over the past week and cut off a 
relationship with a significant other. ___ to see his 
parents, who have been taking turns staying nearby in ___ 
since his SA. 
. 
Per collateral obtained in the ED from the patient's mother, 
___ (___): She reports that patient has a 
history of anxiety attacks last year, during which he felt too 
anxious to leave his room. He would call his parents and report 
these symptoms. Otherwise, when he is upset he is shut down and 
guarded. Mother reports patient has not been acting like 
himself. He had a beneficial experience in ___ in 
___ and connected with one of the therapists there. 
Patient wished to return to school after discharge, and 
eventually family and treatment team agreed on the condition 
that he attend mental health appointments at ___, attend group 
therapy (pt stopped after one week), and that his parents come 
to stay in the ___ area. Since returning to ___, pt has 
been angry and hostile toward them, declining to see them, 
communicating only tersely via text. Last night, he told his 
father to go get stabbed or something to that effect. Mother 
says the anger and violent statements are out of character for 
him.
. 
ED Course: Patient was in adequate behavioral control and did 
not require physical or chemical restraints. 
. 
Patient seen with social worker, ___, ___. Interview 
somewhat limited, as patient was at times a vague and reluctant 
historian, minimizing his symptoms. However, Mr. ___ 
confirmed the history initially presented in the ED. Reported he 
came to the hospital because, "I answered a question wrong," 
stating he seen his clinician at ___ and endorsed 
he had had thoughts of wanting to kill himself with a gun, but 
on my examination, he stated these thoughts were fleeting and 
denied intent or plan. As a result of this comment, patient 
stated he was forced to come to the hospital. Reports he is not 
depressed and wants to be discharged as soon as possible to 
complete his
semester at ___. 
. 
With significant encouragement, Mr. ___ reported that he 
has had intermittent SI beginning in the eighth grade, which he 
attributed to "things at school and at home." Reported that at 
that time he was "not getting along with my father," but denied 
physical confrontation or abuse. Declined to elaborate. When 
asked what was going on in school, patient then stated "no, I 
guess school was fine at that time." Patient also alluded to a 
long history f depression, stating at times he does feel "down," 
but went on to state that he did not believe it was a clinical 
depression, "physically I'm fine," denying difficulties with 
sleep, energy, concentration, or appetite. He did state that a 
longstanding trait has been that he is very sensitive to 
humiliation and embarrassment and that one of his goals is to be 
completely independent from everyone. Reports he is unsure where 
his comes from. 
. 
When discussing the events that led to his suicide attempt, 
patient stated that if he could he would go back to ___. At that time he was performing in a midnight show where 
the actors were performing improv while slightly intoxicated as 
a means of entertainment. He stated that he had had an 
"emotionally bad week" at that time and had been feeling more 
down and frustrated at that time- of note, stated that the week 
prior to that he had "been having the time of my life." Reported 
that during the show he performed poorly and was pulled after 
the first act, which he found to be completely humiliating. Mr. 
___ stated that following this incident, he sent an email 
withdrawing from another show hew as supposed to be performing 
in and isolated himself from all outside contacts, stating he 
was too embarrassed to talk with anyone. Following this 
incident, he stated he decided to kill himself over the- next 5 
days while in ___ and booked a ticket home to ___ with 
the intent and plan to kill himself by driving his car off a 
cliff as noted above. 
. 
Following his suicide attempt, patient stated he was unsure if 
he was glad he survived his suicide attempt. Reported he did 
find his hospitalization in ___ helpful, stating he did not 
want to be there, "but I knew that in order to get out I would 
have to open up and be vulnerable," and he found this helpful. 
However, following discharge, he admitted he continued to keep 
others closed off. Did state that he insisted on returning to ___ 
to complete the semester on the condition that one of his 
parents would be nearby. However, reported that he resents this, 
as he wants to be completely independent. 
. 

 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: social anxiety per patient 
- SA/SIB: see above, s/p one suicide attempt in ___ via 
crashing his car, denies history of SIB 
- Hospitalizations: ___: ___, 
___ (s/p SA)
- Psychiatrist: ___, MD @___ Behavioral Health 
(___)
- Therapist: ___, ___ @___ Behavioral Health
- Case Manager: ___ (___)
- Medication Trials: zoloft 
.
Past Medical History: 
H/o hives
S/p appendectomy ___, ___

 
Social History:
Substance History:  
Tobacco: denies
Alcohol: drinks about 2x/week, denies h/o blackouts, withdrawal 
Cannabis: onset ___, uses about 2x/week, last use ___ 
Denies other illicits, including synthetic cannabinoids, 
stimulants, opiates

.
FORENSIC HISTORY:
___
SOCIAL HISTORY: ___
Family History:
Mother - takes medication for depression
Maternal Grandfather has depression, doesn't believe he is 
taking
any medication
 
Physical Exam:
VITAL SIGNS:
VS 98.9 92 121/80 16 97% RA 
.
EXAM:
General: no acute distress
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes, 
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No 
tenderness to palpation in all quadrants.  No guarding, no 
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.
.
Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consensually; brisk 
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor 
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty.  Romberg 
absent.
.
Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: intact to serial 7s
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___ 
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3 
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the 
other side" as "I don't know what the other side would mean to 
me"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation
.
Mental Status:
-Appearance: muscular build man appearing stated age, well 
groomed, wearing hospital gown, in no apparent distress
-Behavior: Sitting up in bed, limited eye contact, no 
psychomotor agitation or retardation
-Attitude: guarded to irritable, although cooperative with 
interview
-Mood: "normal...just trucking through"
-Affect: irritable, constricted affect
-Speech: Normal rate, decreased volume, and normal tone
-Thought process: Linear, coherent, goal-oriented, no loose 
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
-Insight: Limited
-Judgment: Poor

 
Pertinent Results:
___ 01:06PM   GLUCOSE-92 UREA N-13 CREAT-0.8 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-26 ANION GAP-12
___ 01:06PM   estGFR-Using this
___ 01:06PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 01:06PM   WBC-7.4 RBC-5.25 HGB-15.6 HCT-45.1 MCV-86 
MCH-29.7 MCHC-34.6 RDW-12.5 RDWSD-39.3
___ 01:06PM   NEUTS-59.2 ___ MONOS-14.2* EOS-3.0 
BASOS-0.8 IM ___ AbsNeut-4.39 AbsLymp-1.66 AbsMono-1.05* 
AbsEos-0.22 AbsBaso-0.06
___ 01:06PM   PLT COUNT-191
___ 12:55PM URINE  HOURS-RANDOM
___ 12:55PM URINE  HOURS-RANDOM
___ 12:55PM URINE  GR HOLD-HOLD
___ 12:55PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:55PM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 12:55PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
 
Brief Hospital Course:
This is a ___ year old single man, currently a sophomore at ___, 
history of social anxiety, s/p one recent hospitalization and 
one recent suicide attempt who presented to ___ ED via EMS on 
a ___ form ___ Behavioral ___ due to concerns for SI. 
. 
History and presentation notable for longstanding history of SI 
beginning in young adolescence in the setting of reported 
conflict with his father and some periods of low mood with 
patient describing difficulties with relationships, noting that 
he does not wish to depend on anyone for reasons that are 
unclear. Also demonstrates significant sensitivity to perceived 
failures/humiliation, with recent suicide attempt apparently in 
response to embarrassment regarding an acting performance while 
at school. Psychiatric review of systems negative for NVS that 
would be consistent with a major depressive episode and patient 
does not appear dysthymic/dysphoric on my examination- I'm not 
convinced he is suffering from MDD. In addition, no clear 
history of GAD, and although patient did report a history of 
panic attacks in the past, he denies them on my current 
examination. No history of trauma that would suggest a diagnosis 
of PTSD. No history or family history of mania that would be 
compelling for BPAD, although given his young age, this could be 
a possibility. In addition, nothing in his history or my 
examination that would suggest a history or current psychosis- 
no signs/symptoms of negative or positive symptoms. Patient 
denies drug or alcohol use and toxicology screen was negative. 
Furthermore, given good health and young age, I am doubtful that 
an underlying medical condition is contributing to his current 
presentation. 
. 
Regardless of diagnosis, given recent SI in the setting of a 
recent serious suicide attempt, young age, male sex, current 
recent depression, lack of meaningful therapeutic relationship 
with an outside professional and patient's reluctance to allow 
his family to engage in safety planning, he certainly met 
inpatient level of care for diagnostic clarification, evaluation 
of meds, and safety and discharge planning. 
. 
#. Legal/Safety: Patient admitted to ___ on a ___, upon admission he signed a CV as well as a 3 day, which he 
later retracted. He signed another 3 day notice on ___ that 
expired on day of discharge. Given significant improvement in 
engagement in care with consistent denial of SI or thoughts of 
self harm, I did not believe he met criteria to file a section 
7&8b. 
. 
#. Depression/Anxiety: as noted above 
- Patient initially declined groups and was noted to be 
isolative to his room, reluctant to engage with his treatment 
team. 
- With significant encouragement, patient became significantly 
more engaged in his treatment, discussing the stressors that led 
to his hospitalization, including significant rejection 
sensitivity, difficulty with low self esteem, and recent 
conflict with his father, whom he felt had violated his privacy 
by communicating with his friends via text without his 
permission. Patient became more open with his treatment team and 
responsive to supportive psychotherapy. During his 
hospitalization, patient consistently denied SI or thoughts of 
self harm. He expressed a strong desire to return back to 
school; however, upon discussion with ___ health, it was 
strongly recommended that Mr. ___ take a leave of absence 
for this semester and possibly during the ___ semester. 
Although disappointed, Mr. ___ was accepting of this 
decision. 
- The treatment team worked closely with the patient's parents, 
who were very involved in his care. Discussed presentation, 
hospital course and treatment recommendations. Family was 
amenable and supportive of plan to discharge home with a PHP 
intake in ___ with plan to live with his mother. 
- Initially, patient declined initiation of antidepressants. 
However, after discussion of the risks and benefits, patient 
agreed to a trial of Prozac, which his mother had had a good 
response to in the past. Patient was started on Prozac 10 mg po 
daily, which he tolerated well without complaints of side 
effects. Recommend continuing this medication and titrating it 
up as tolerated and as clinically indicated. 
- Patient did report some issues with insomnia, and occasionally 
utilized Vistaril 25 mg prn and Ramelteon 8 mg po qhs. 
- By time of discharge, patient's condition had improved-- he 
was able to express more emotions and utilize support from his 
treatment team. Range of affect improved, and although he would 
appear intermittently depressed at times, his was notably 
linear, goal and future oriented throughout his hospitalization, 
looking forward to eventually returning back to school.
- Of note, on day of discharge, over 35 minute spent in care of 
patient with >50% time spent in psychoeducation, discharge and 
safety planning 
. 
#. Medical: No acute or chronic medical conditions
.
Risks assessment: patient is at elevated risk for self harm at 
this time with risk factors that include young age, male sex, 
history of depression, and recent serious suicide attempt. 
However, he also has a number of strengths-- he is very 
intelligent, can be introspective, has a good sense of humor, 
and can be engaged with supports and by time of discharge he was 
able to reach out to friends to ask for assistance with his 
depression, which he found helpful. Overall, I think he has the 
potential to do very well in therapy. Given consistent denial of 
SI, compliance with care, thought process that is notably 
linear, goal and future oriented, I do not believe he is at 
acutely elevated risk of suicide at this time and is stable to 
be stepped down to partial level of care. 

 
Medications on Admission:
None 
 
Discharge Medications:
1.  FLUoxetine 10 mg PO DAILY 
RX *fluoxetine 10 mg 1 tablet(s) by mouth daily Disp #*15 Tablet 
Refills:*0 
2.  HydrOXYzine 25 mg PO BID:PRN anxiety or insomnia 
RX *hydroxyzine HCl 25 mg 1 tab by mouth twice a day Disp #*30 
Tablet Refills:*0 
3.  Melatin (melatonin) 3 mg oral qhs prn  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified depressive disorder 
Unspecified anxiety disorder 

 
Discharge Condition:
Vitals: T-98.2 BP-100/61 HR-76 RR-20 O2Sat-99%RA
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: 'better' 
A: euthymic, slightly anxious, mood congruent, appropriate
TC: denies SI/HI, AVH 
TP: linear, logical, goal and future oriented
C: awake, alert, responds to questions appropriately 
I/J: fair/fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___